US04057578
5.6 g (0.2 mole) ethylene, 23.6 g (0.1 mole) trichloromethane phosphonic dichloride, 162 mg (1 mmole) anhydrous ferric chloride and 366 mg (1 mmole) dibenzpinacol were heated in a 100 ml silver-lined autoclave in 40 ml dry methylene chloride at 120° during 14 hours. During this time the pressure fell from 500 to 220 psi. After cooling, the reaction product was extracted three times with ice-cold 1N aqueous hydrochloric acid after take-up in methylene chloride and dried on calcium chloride. Evaporation at atmospheric pressure at 50° left an oil which was distilled in vacuo, yielding 13.7 g 1,1,3-trichloropropane-1-phosphonic dichloride, bp/4: 105° -106°. Quantitative half-hydrolysis gave 13.4% chloride ion. Calc.: 13.4%.

reactant | ethylene | 0.2 mole, 5.6 g | C=C | C2H4
reactant | trichloromethane phosphonic dichloride | 0.1 mole, 23.6 g | ClC(P(=O)(Cl)Cl)(Cl)Cl | CCl5OP
reactant | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
catalyst | silver | 100 ml | [Ag] | Ag
product | 1,1,3-trichloropropane-1-phosphonic dichloride | 13.7 g | ClC(CCCl)(P(=O)(Cl)Cl)Cl | C3H4Cl5OP
